US04978679
(4aS*,9bS*)-1,2,3,4,4a,9b-Hexahydro-8-hydroxy-7-propyldibenzofuran-3-one
A solution of 1.08 g (7.2 mmol) of 2-propyl-1,4-benzoquinone and 2.20 g (20.0 mmol) of 1-methoxy-1,3-cylcohexadiene in 20 mL of benzene was heated at reflux for 2 h. The solution was concentrated in vacuo and the residue dried under high vacuum to afford a pale yellow oil. This material was dissolved in 20 mL of methanol and to that solution was added 1 mL of 2.0M HCl. The solution was stirred at room temperature for 6 hours, then was concentrated to about 5 mL volume. This was partitioned between ethyl acetate and water and the aqueous layer was washed with two portions of ethyl acetate. The organic extracts were sequentially washed with water and NaCl solution, combined, dried over magnesium sulfate, and concentrated. The residue was crystallized from ether-hexane to afford 0.764 g white crystals, 43%.

reactant | 2-propyl-1,4-benzoquinone | 7.2 mmol, 1.08 g | C(CC)C=1C(C=CC(C1)=O)=O | C9H10O2
reactant | 1-methoxy-1,3-cylcohexadiene | 20.0 mmol, 2.20 g | COC1=CC=CCC1 | C7H10O
reactant | HCl | 2.0M, 1 mL | Cl | ClH
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 20 mL | CO | CH4O
product | (4aS*,9bS*)-1,2,3,4,4a,9b-Hexahydro-8-hydroxy-7-propyldibenzofuran-3-one | 0.764 g | OC=1C(=CC2=C([C@H]3[C@@H](O2)CC(CC3)=O)C1)CCC | C15H18O3
